US07307094B2
A 500-mL Parr hydrogenation vessel was purged with nitrogen and charged with platinum (IV) oxide (1.28 g, 5.64 mmol), 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one oxime (4.00 g, 26.0 mmol), acetic acid (11 mL) and ethanol (110 mL). The bottle was evacuated, charged with hydrogen gas to a pressure of 50 psi and shaken for 24 h on a Parr hydrogenation apparatus. The hydrogen was then evacuated and nitrogen charged to the bottle. The reaction mixture was then mixed with Celite 521 (5.0 g), filtered, and the filtrate evaporated to a solid residue. This residue was dissolved in methanol (100 mL) and this solution treated with sodium carbonate (10 g). The resulting suspension was added diethyl ether (50 mL) and filtered. Evaporation of the filtrate to dryness afforded 3.64 g (100%) of 8-methyl-8-azabicyclo[3.2.1]oct-3-ylamine as a white solid: 1H NMR (300 MHz, CD3OD) δ 5.18 (br s, 2H), 3.35 (br s, 2H), 3.21 (t, J=6.6 Hz, 1H), 2.40 (s, 3H), 2.26-2.00 (m, 6H), 1.68-1.58 (m, 2H).

reactant | 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one oxime | 26.0 mmol, 4.00 g | CN1C2CC(CC1CC2)=NO | C8H14N2O
reactant | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
catalyst | platinum (IV) oxide | 5.64 mmol, 1.28 g | [Pt](=O)=O
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 8-methyl-8-azabicyclo[3.2.1]oct-3-ylamine | 3.64 g, 100% | CN1C2CC(CC1CC2)N | C8H16N2
